US08426449B2
Step 2: (3-{2-[((S)-1-Methyl-2-phenyl-ethylamino)-methyl]-4-nitro-phenoxy}-phenyl)-acetic acid ethyl ester
Prepared according to the procedure described in Example 2, Step 3, using the following starting materials: [3-(2-formyl-4-nitro-phenoxy)-phenyl]-acetic acid ethyl ester and D-amphetamine sulfate.

reactant | [3-(2-formyl-4-nitro-phenoxy)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])C=O)=O | C17H15NO6
reactant | D-amphetamine sulfate | C[C@@H](CC1=CC=CC=C1)N.C[C@@H](CC1=CC=CC=C1)N.OS(=O)(=O)O
product | (3-{2-[((S)-1-Methyl-2-phenyl-ethylamino)-methyl]-4-nitro-phenoxy}-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])CN[C@H](CC1=CC=CC=C1)C)=O | C26H28N2O5
